US07115645B2
5-[[(4-Chlorophenyl) sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]pentanoic acid methyl ester
100 mg of 4-chloro-N-(1,2-diphenyl-1H-benzimidazol-5-yl)benzenesulfonamide was suspended in 0.5 ml of N,N-dimethylformamide, mixed with 8 mg of sodium hydride and stirred for 30 minutes at 20° C. 60 mg of 5-bromopentanoic acid methyl ester was added, it was allowed to stir for 15 hours, mixed with water, extracted three times with ethyl acetate, the extracts were dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 4-chloro-N-(1,2-diphenyl-1H-benzimidazol-5-yl)benzenesulfonamide | 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H18ClN3O2S
reactant | sodium hydride | 8 mg | [H-].[Na+]
reactant | 5-bromopentanoic acid methyl ester | 60 mg | COC(CCCCBr)=O | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 5-[[(4-Chlorophenyl) sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]pentanoic acid methyl ester | COC(CCCCN(C1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C31H28ClN3O4S
